US04147799
18.1 g. of 1-(3,4-methylenedioxyphenyl)-2-aminoethanol hydrochloride are dissolved in 20 ml. of acetone and 300 ml. of ethanol. To the resulting solution are added 10 g. of extended Raney nickel and the mixture is heated and stirred at 70° C. in an atmosphere of hydrogen in an autoclave. After the absorption of hydrogen is complete, the catalyst is filtered off and the filtrate is concentrated to dryness. Upon recrystallization of the crude crystalline residue from isopropyl alcohol, 14.4 g. of 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride are obtained as white needles.

reactant | 1-(3,4-methylenedioxyphenyl)-2-aminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CN)O
reactant | acetone | CC(=O)C | C3H6O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CNC(C)C)O | InChI=1S/C12H17NO3.ClH/c1-8(2)13-6-10(14)9-3-4-11-12(5-9)16-7-15-11;/h3-5,8,10,13-14H,6-7H2,1-2H3;1H
